US08431597B2
(2R,4R)-tert-butyl 4-(2,3-dihydrobenzo[b][1,4]dioxine-6-carboxamido)-2-(1-(2-hydroxyethyl)-1H-benzo[d]imidazol-2-yl)piperidine-1-carboxylate
(2R,4R)-tert-butyl 4-(2,3-dihydrobenzo[b][1,4]dioxine-6-carboxamido)-2-(1-(2-(tetrahydro-2H-pyran-2-yloxy)ethyl)-1H-benzo[d]imidazol-2-yl)piperidine-1-carboxylate (90 mg, 0.15 mmol) was added to a solution of acetic acid (2 mL), THF (1 mL) and water (0.5 mL) (4:2:1), the resulting solution was stirred at 45° C. for over night. The reaction mixture was concentrated to give a yellow oil as title compound (LC-MS: 523.2, t=2.3 min) for the next reaction without further purification.

reactant | (2R,4R)-tert-butyl 4-(2,3-dihydrobenzo[b][1,4]dioxine-6-carboxamido)-2-(1-(2-(tetrahydro-2H-pyran-2-yloxy)ethyl)-1H-benzo[d]imidazol-2-yl)piperidine-1-carboxylate | 0.15 mmol, 90 mg | O1C2=C(OCC1)C=C(C=C2)C(=O)N[C@H]2C[C@@H](N(CC2)C(=O)OC(C)(C)C)C2=NC1=C(N2CCOC2OCCCC2)C=CC=C1 | C33H42N4O7
reactant | acetic acid | 2 mL | C(C)(=O)O | C2H4O2
reactant | THF | 1 mL | C1CCOC1 | C4H8O
solvent | water | 0.5 mL | O | H2O
product | (2R,4R)-tert-butyl 4-(2,3-dihydrobenzo[b][1,4]dioxine-6-carboxamido)-2-(1-(2-hydroxyethyl)-1H-benzo[d]imidazol-2-yl)piperidine-1-carboxylate | O1C2=C(OCC1)C=C(C=C2)C(=O)N[C@H]2C[C@@H](N(CC2)C(=O)OC(C)(C)C)C2=NC1=C(N2CCO)C=CC=C1 | C28H34N4O6
